US07799805B2
(5-Bromo-2-chloro-benzyloxy)-tert-butyl-dimethyl-silane
TBDMS-Cl (10.6 g, 66.7 mmol) was added to a sol. of (5-bromo-2-chloro-phenyl)-methanol (12.8 g, 55.6 mmol) and imidazole (9.42 g, 138 mmol) in DMF (190 mL) at 0° C. The mixture was stirred for 2 h at 0° C., and aq. sat. NH4Cl was added. The mixture was extracted with heptane (2×). The combined org. extracts were dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the residue by FC (heptane→EtOAc/heptane 1:49) yielded the title compound (18.0 g, 96%). LC-MS: tR=1.22 min.

reactant | TBDMS-Cl | 66.7 mmol, 10.6 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | (5-bromo-2-chloro-phenyl)-methanol | 55.6 mmol, 12.8 g | BrC=1C=CC(=C(C1)CO)Cl | C7H6BrClO
reactant | imidazole | 138 mmol, 9.42 g | N1C=NC=C1 | C3H4N2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 190 mL | CN(C)C=O | C3H7NO
product | (5-Bromo-2-chloro-benzyloxy)-tert-butyl-dimethyl-silane | 18.0 g, 96% | BrC=1C=CC(=C(CO[Si](C)(C)C(C)(C)C)C1)Cl | C13H20BrClOSi
